US05958942
iii) Synthesis of 2-ethyl-5-[N-[5-(trifluoro-methanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine
To a suspension of 5.50 g (24.0 mmol) of 2-ethyl-5-chloromethylimidazo[1,2-a]pyridine·hydrochloride in 60 ml of acetonitrile was added 4.90 g (48.0 mmol) of 1,5-diaminopentane. The mixture was heated for 30 minutes under reflux. After completion of the reaction, the reaction mixture was cooled, and then, the resulting precipitate of 1.5-diaminopentane·dihydrochloride was separated by filtration and then, washed with 10 ml of acetonitrile twice. The filtrate and the washings were combined, to which was added 6.7 ml (48.0 mmol) of triethylamine. The mixture was stirred sufficiently. To this solution was added 10.29 g (28.8 mmol) of N-phenyl trifluoromethanesulfonimide, and the mixture was stirred for two hours at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure. The residue was extracted with 150 ml of chloroform. The organic layer was washed with 150 ml of a saturated aqueous saline solution, which was dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure. The residue was purified by silicagel column chromatography (eluent: chloroform/methanol=20:1) to give 6.03 g of the desired compound (64.0%, colorless solid).

reactant | 2-ethyl-5-chloromethylimidazo[1,2-a]pyridine·hydrochloride | 24.0 mmol, 5.50 g | C(C)C=1N=C2N(C(=CC=C2)CCl)C1.Cl
reactant | 1,5-diaminopentane | 48.0 mmol, 4.90 g | NCCCCCN | C5H14N2
reactant | triethylamine | 48.0 mmol, 6.7 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyl trifluoromethanesulfonimide | 28.8 mmol, 10.29 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-ethyl-5-[N-[5-(trifluoro-methanesulfonamido)pentan-1-yl]aminomethyl]imidazo[1,2-a]pyridine | 6.03 g, 64.0% | C(C)C=1N=C2N(C(=CC=C2)CNCCCCCNS(=O)(=O)C(F)(F)F)C1 | C16H23F3N4O2S
